US07935815B2
Synthesis of tert-butyl 4-[4-chloro-1-hydrazinocarbonyl-butan-1-yl]piperidine-1-carboxylate
10% palladium-carbon (50% wet, 200 mg) was added to a solution of tert-butyl 4-[1-(N′-benzyloxycarbonyl-hydrazinocarbonyl)-4-chlorobutan-1-yl]piperidine-1-carboxylate (928 mg) in methanol (15 ml), and the reaction solution was hydrogenated at normal pressure at room temperature for 4.5 hours. The catalyst is removed by filtration and the filtrate is concentrated under reduced pressure to obtain 663 mg of the title compound. The property value of the compound is as follows.

reactant | tert-butyl 4-[1-(N′-benzyloxycarbonyl-hydrazinocarbonyl)-4-chlorobutan-1-yl]piperidine-1-carboxylate | 928 mg | C(C1=CC=CC=C1)OC(=O)NNC(=O)C(CCCCl)C1CCN(CC1)C(=O)OC(C)(C)C | C23H34ClN3O5
solvent | methanol | 15 ml | CO | CH4O
catalyst | palladium-carbon | 200 mg | [C].[Pd]
product | tert-butyl 4-[4-chloro-1-hydrazinocarbonyl-butan-1-yl]piperidine-1-carboxylate | 663 mg | ClCCCC(C(=O)NN)C1CCN(CC1)C(=O)OC(C)(C)C | C15H28ClN3O3
